US06162819
1-Benzyl-3-(5-formyl-2-furyl)-5-trifluoromethylpyrazole:
10 ml of dry DMF were initially charged at 10° C., 1.9 g (12.4 mmol) of phosphorus oxychloride were added dropwise and the mixture was stirred for 30 min. A solution of 3 g (10.3 mmol) of 1-benzyl-3-(2-furyl)-5-trifluoromethylpyrazole in 10 ml of DMF was added dropwise, and the mixture was stirred at RT overnight. The mixture was poured into ice-water and adjusted to pH 9 using potassium carbonate solution. The precipitated product was filtered off with suction and dried in a vacuum drying cabinet at 50° C. This gave 3.3 g (100%) of the title compound. m.p.: 76.5-77.5° C.

reactant | phosphorus oxychloride | 12.4 mmol, 1.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-benzyl-3-(2-furyl)-5-trifluoromethylpyrazole | 10.3 mmol, 3 g | C(C1=CC=CC=C1)N1N=C(C=C1C(F)(F)F)C=1OC=CC1 | C15H11F3N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-3-(5-formyl-2-furyl)-5-trifluoromethylpyrazole | C(C1=CC=CC=C1)N1N=C(C=C1C(F)(F)F)C=1OC(=CC1)C=O | C16H11F3N2O2
